US08754089B2
A mixture of 3-bromo-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.09450 g, 0.3512 mmol), 3-fluorophenylboronic acid (0.09827 g, 0.7024 mmol), tetrakis(triphenylphosphine)palladium (0.02029 g, 0.01756 mmol), and sodium carbonate anhydrous (0.1861 g, 1.756 mmol) in acetonitrile-water (3:1) (4 mL) was stirred at 85° C. After 2 h, the mixture was cooled to rt and partitioned between EtOAc (50 mL) and water (50 mL). The organic layer was washed with brine (50 mL×2), dried over Na2SO4, filtered, and concd under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 14 min and then 100% isocratic of EtOAc for 20 min as eluent to give 3-(3-fluorophenyl)-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one as a yellow solid: Mass Spectrum (ESI) m/e=285.1 (M+1).

reactant | 3-bromo-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.3512 mmol, 0.09450 g | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)CO | C10H9BrN2O2
reactant | 3-fluorophenylboronic acid | 0.7024 mmol, 0.09827 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate anhydrous | 1.756 mmol, 0.1861 g | C(=O)(O)O | CH2O3
solvent | acetonitrile water | 4 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.01756 mmol, 0.02029 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-fluorophenyl)-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC=1C=C(C=CC1)C1=C(N=C2N(C1=O)C(=CC=C2)C)CO | C16H13FN2O2
